US09056874B2
(+)-3-(5-cyanobenzo[d]oxazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)propanoic acid
To (+) or (−)-methyl 3-(5-cyanobenzo[d]oxazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)propanoate (tr=3.8 min) (74 mg, 0.190 mmol) in THF (475 μl) and water (475 μl) was added NaOH (950 μl, 0.950 mmol) and the reaction stirred at room temperature for 4 hours. The reaction was directly purified via preparative HPLC (HC-B) to obtain the title compound. 1H NMR as in Example 148-B. HRMS calcd. for C21H17N3O4 (M+H)+ 376.1297. found 376.1290.

reactant | (−)-methyl 3-(5-cyanobenzo[d]oxazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)propanoate | 0.190 mmol, 74 mg | C(#N)C=1C=CC2=C(N=C(O2)C(CC(=O)OC)C2=C3C=CNC3=C(C=C2OC)C)C1 | C22H19N3O4
reactant | NaOH | 0.950 mmol, 950 μl | [OH-].[Na+]
solvent | THF | 475 μl | C1CCOC1 | C4H8O
solvent | water | 475 μl | O | H2O
product | (+)-3-(5-cyanobenzo[d]oxazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)propanoic acid | C(#N)C=1C=CC2=C(N=C(O2)C(CC(=O)O)C2=C3C=CNC3=C(C=C2OC)C)C1 | C21H17N3O4
